US05538950
A solution of benzyl (2R)-2-(piperidinocarbonylmethyl)-4-methylvalerate (0.625 g) in methanol (10 ml) was hydrogenated over 10% palladium on carbon (80 mg) at 3 atmospheric pressure of hydrogen for 1 hour. After removal of the catalyst by filtration, the filtrate was concentrated in vacuo to give (2R)-2-(piperidinocarbonylmethyl)-4-methylvaleric acid (0.43 g) as an oil.

reactant | benzyl (2R)-2-(piperidinocarbonylmethyl)-4-methylvalerate | 0.625 g | N1(CCCCC1)C(=O)C[C@H](C(=O)OCC1=CC=CC=C1)CC(C)C | C20H29NO3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium on carbon | 80 mg | [Pd] | Pd
product | (2R)-2-(piperidinocarbonylmethyl)-4-methylvaleric acid | 0.43 g | N1(CCCCC1)C(=O)C[C@H](C(=O)O)CC(C)C | C13H23NO3
